US04420428
(B) 11β-(Acetyloxy)-17,17-bis(ethylthio)-9-fluoroandrosta-1,4-diene-3,16-dione
A solution of 11β-(acetyloxy)-17,17-bis-(ethylthio)-9-fluoro-16α-hydroxyandrosta-1,4-dien-3-one (100 mg, 0.207 mmole) in a mixture of dry dimethylsulfoxide (2.0 ml), acetic anhydride (0.7 ml) and acetic acid (0.1 ml) was left standing at room temperature for 18 hours. The mixture was then added to water and was extracted with chloroform. The chloroform solution was washed with water, dried (MgSO4) and evaporated to afford the title compound (94 mg) as a solid.

reactant | 11β-(acetyloxy)-17,17-bis-(ethylthio)-9-fluoro-16α-hydroxyandrosta-1,4-dien-3-one | 0.207 mmole, 100 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@H](C([C@@]2(C)C1)(SCC)SCC)O)=O)C)F | C25H35FO4S2
reactant | dimethylsulfoxide | 2.0 ml | CS(=O)C | C2H6OS
reactant | acetic anhydride | 0.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 11β-(Acetyloxy)-17,17-bis(ethylthio)-9-fluoroandrosta-1,4-diene-3,16-dione | 94 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC(C([C@@]2(C)C1)(SCC)SCC)=O)=O)C)F | C25H33FO4S2
